US04945164
A mixture of 6.11 g 5-[5-(2,6-dichloro-4-cyanophenoxy)pentyl]-3-methylisoxazole (m.p. 59°-60° C.), 75 ml 35% sodium hydroxide and 75 ml ethanol was stirred on a steam bath for several hours. The reaction mixture upon standing separated into a clear lower layer and a yellow upper layer. The latter was separated, diluted with cold water and acidified with hydrochloric acid. The resulting solid was collected and recrystallized from acetonitrile to give 5.24 g 3,5-dichloro-4-[5-(3-methylisoxazol-5-yl)pentyloxy]benzoic acid, m.p. 67°-69° C.

reactant | 5-[5-(2,6-dichloro-4-cyanophenoxy)pentyl]-3-methylisoxazole | 6.11 g | ClC1=C(OCCCCCC2=CC(=NO2)C)C(=CC(=C1)C#N)Cl | C16H16Cl2N2O2
reactant | sodium hydroxide | 75 ml | [OH-].[Na+]
reactant | ethanol | 75 ml | C(C)O | C2H6O
product | 3,5-dichloro-4-[5-(3-methylisoxazol-5-yl)pentyloxy]benzoic acid | 5.24 g | ClC=1C=C(C(=O)O)C=C(C1OCCCCCC1=CC(=NO1)C)Cl | C16H17Cl2NO4
